US06987123B2
1-(2-hydroxyethyl)-2-ethyl-1H-pyrrole (Compound No. 26)
A mixture containing 2-bromoethyl-2-acetyl-1H-pyrrole (8.2 g), ethylene glycol (45 mL), 85% potassium hydroxide pellets (8.91 g) and 80% hydrazine hydrate (6.76 mL) was stirred at 200° C. for about 1.5 hr along with simultaneous distillation of volatile materials. The product obtained was extracted with ethyl acetate (2×100 mL). The ethyl acetate layer was washed with water (100 mL), dried over sodium sulfate, filtered and evaporated. The crude product obtained was purified by column chromatography (silica gel 100-200), using ethyl acetate:pet. ether (8:2) as an eluent to obtain 2.2 g of the title compound.

reactant | 2-bromoethyl-2-acetyl-1H-pyrrole | 8.2 g | BrCCN1C(=CC=C1)C(C)=O | C8H10BrNO
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrazine hydrate | 6.76 mL | O.NN
solvent | ethylene glycol | 45 mL | C(CO)O | C2H6O2
product | 1-(2-hydroxyethyl)-2-ethyl-1H-pyrrole | 2.2 g | OCCN1C(=CC=C1)CC | C8H13NO
